US05629423
A second variation was initiated by adding DMSO (1000 ml) to 95% lithium amide (87.1 g, 3.60 mole) at 20° C. over 10 minutes without an exothermie reaction, heated to 60° C. over 30 minutes and maintained at that temperature for 30 minutes when ammonia evolution had ceased. The mixture was cooled to 15° C. over 20 minutes and acetaldehyde ethyl propargyl acetal (580 ml, 3.50 mole) was added to the resulting slurry over 40 minutes with cooling in an ice bath and maintaining the temperature at 15° C. The reaction mixture was stirred for 20 minutes while cooling to 2° C., and chiral R-(+)-propylene oxide (252 ml, 3.60 mole) was added over 120 minutes with ice bath cooling. The temperature was increased to 20° C. The reaction was maintained at 20° C. for 120 minutes and an aliquot removed was shown to be 94.6% 5-(R)-hydroxy-1-ethoxyethoxy-2-hexyne by GC-MS. Acetic anhydride (570 ml, 6.0 mole) was added over 45 minutes with ice bath cooling and the temperature increased to 30° C. The reaction was stirred at 60° C. for 16 hours. Saturated sodium bicarbonate (500 ml) was added, followed by solid sodium bicarbonate (700 g, 8.3 mole) in 50 g portions. Water (1000 ml) and ethyl acetate (1000 ml) were added, the phases separated and the ethyl acetate phase was washed with 25% saturated sodium chloride solution (2×800 ml). The solvent was removed to afford a residue of crude 5-(R)-acetoxy-1-ethoxyethoxy-2-hexyne (680 g, 85% yield).

reactant | lithium amide | 3.60 mole, 87.1 g | [NH2-].[Li+]
reactant | ammonia | N | H3N
reactant | acetaldehyde ethyl propargyl acetal | 3.50 mole, 580 ml | C(C#C)OC(C)OCC | C7H12O2
reactant | Acetic anhydride | 6.0 mole, 570 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 8.3 mole, 700 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 1000 ml | O | H2O
solvent | DMSO | 1000 ml | CS(=O)C | C2H6OS
product | 5-(R)-acetoxy-1-ethoxyethoxy-2-hexyne | 680 g, 85% yield | C(C)(=O)O[C@@H](CC#CCOC(C)OCC)C | C12H20O4
